US06686356B2
Step 1: Preparation of 4-(3-fluoro-4-nitrobenzyl)morpholine
A slurry of N-bromosuccinimide (167 g), 3-fluoro-4-nitrotoluene (135 g), 2,2′-azoisobutyronitrile (17.1 g) and 1,2-dichloroethane (1120 g) is stirred at 60° C. for 2 hours and then at 80° C. for 30 min. The reaction mixture is cooled to 23° C. and water (300 ml) is added. The phases are separated and the aqueous is washed with methylene chloride (300 ml). The combined organics are concentrated. Methanol (400 ml) is added and the mixture is cooled to −5° C. Morpholine (218 g) is added slowly while maintaining −5 to 14° C. While maintaining 6 to 14° C., 37% hydrochloric acid (113 ml) is added to adjust the observed pH from 8 to 6. Water (650 ml) and toluene (650 ml) are added and the mixture is warmed to 25° C. The phases are separated and the aqueous is washed with toluene (2×600 ml). To the combined organics is added water (400 ml) followed by 37% hydrochloric acid (53 g). The phases are separated and the organic is washed with water (500 ml). At room temperature, the pH of the combined aqueous is slowly adjusted to pH of 9 with 50% aqueous sodium hydroxide to yield a yellow slurry. The precipitate is collected by filtration, washed with water (200 ml) and is dried in a nitrogen stream to afford a yellow solid (104 g). Physical characteristics: 1H NMR (400 MHz, CDCl3) δ2.47, 3.56, 3.73, 7.27, 7.35, 8.02; 13C NMR (100 MHz, CDCl3) δ53.55, 61.99, 66.83, 118.08, 124.33, 126.01, 148.10, 155.64; MS (EI) m/z 240; Anal. Found: C, 54.84; H, 5.47; N, 11.62.

reactant | N-bromosuccinimide | 167 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-fluoro-4-nitrotoluene | 135 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | 1,2-dichloroethane | 1120 g | ClCCCl | C2H4Cl2
reactant | water | 300 ml | O | H2O
product | 4-(3-fluoro-4-nitrobenzyl)morpholine | 104 g | FC=1C=C(CN2CCOCC2)C=CC1[N+](=O)[O-] | C11H13FN2O3
